US07345056B2
16-(4-Chloro-benzenesulfonyl)-4,6,8,9,16-pentaaza-tetracyclo[10,3,1,02,10,05,9]hexadeca-2(10),3,5,7-tetraene MS (ES) m/e 390.0 (M+H)+
Prepared as described in Example 5 using 9-(4-chlorophenylsulfonyl)-2-(hydroxymethylene)-9-azabicyclo[3.3.1]nonan-3-one which was prepared as described in Example 34 and 3-amino-1,2,4-triazole

reactant | 9-(4-chlorophenylsulfonyl)-2-(hydroxymethylene)-9-azabicyclo[3.3.1]nonan-3-one | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C(C(CC1CCC2)=O)=CO | C15H16ClNO4S
reactant | 3-amino-1,2,4-triazole | NC1=NNC=N1 | C2H4N4
product | 16-(4-Chloro-benzenesulfonyl)-4,6,8,9,16-pentaaza-tetracyclo[10,3,1,02,10,05,9]hexadeca-2(10),3,5,7-tetraene | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C=3C=NC4=NC=NN4C3CC1CCC2 | C17H16ClN5O2S
